US08748418B2
To a solution of (R)-5-[5-(benzhydrylidene-amino)-2-fluoro-phenyl]-6,6-difluoro-5-methyl-[1,4]oxazepan-3-one (intermediate A17D) (308 mg, 0.70 mmol) in dioxane (20 ml) at 23° C. was added 1 M HCl (2.1 ml, 2.1 mmol) was added. After 30 min of stirring, the reaction mixture was poured on sat. NaHCO3-solution and extracted twice with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and evaporated to give a dark green oil, which was purified by silica gel column chromatography with n-heptane/ethyl acetate to give the (R)-5-(5-amino-2-fluorophenyl)-6,6-difluoro-5-methyl-1,4-oxazepan-3-one (172 mg, 0.63 mmol, 90%) as a yellow foam. MS (ISP): m/z=275.2 [(M+H)+].

reactant | (R)-5-[5-(benzhydrylidene-amino)-2-fluoro-phenyl]-6,6-difluoro-5-methyl-[1,4]oxazepan-3-one | 0.70 mmol, 308 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC=1C=CC(=C(C1)[C@]1(NC(COCC1(F)F)=O)C)F | C25H21F3N2O2
reactant | HCl | 2.1 mmol, 1 M, 2.1 ml | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | (R)-5-(5-amino-2-fluorophenyl)-6,6-difluoro-5-methyl-1,4-oxazepan-3-one | 0.63 mmol, 172 mg, 90% | NC=1C=CC(=C(C1)[C@]1(NC(COCC1(F)F)=O)C)F | C12H13F3N2O2
